US06964966B2
Acetic anhydride (3 ml) was added to a stirred solution of 4-amino-1-benzyl-3,3-dimethylpiperidine (2.0 g, 9.17 mmol) in pyridine (5 ml) and stirred for 1 hr. The reaction mixture was concentrated to furnish 4-acetylamino-1-benzyl-3,3-dimethyl piperidine as an oil. Yield 1.8 g (76%), C16H24N2O, m/z 261 (M+1), PMR (CDCl3): 0.84 (s, 3H), 0.98 (s, 3H), 1.64 (m, 2H), 2.02 (s, 3H), 2.12 (m, 2H), 2.44 (d, 1H), 2.84 (d, 1H), 3.44 (d, 2H), 3.7 (m, 1H), 5.3 (bs, 1H), 7.31 (m, 5H).

reactant | Acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-amino-1-benzyl-3,3-dimethylpiperidine | 9.17 mmol, 2.0 g | NC1C(CN(CC1)CC1=CC=CC=C1)(C)C | C14H22N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetylamino-1-benzyl-3,3-dimethyl piperidine | C(C)(=O)NC1C(CN(CC1)CC1=CC=CC=C1)(C)C | C16H24N2O
